US04325964
2-(4-Chlorobenzylmercapto)-acetohydroxamic acid
A solution of 0.15 mol of methyl 2-(4-chlorobenzylmercapto)-acetate in 50 ml of methanol is mixed with a solution of 0.225 mol of hydroxylamine (base) and 0.15 mol of NaOH3 in 150 ml of methanol.

reactant | methyl 2-(4-chlorobenzylmercapto)-acetate | 0.15 mol | ClC1=CC=C(CSCC(=O)OC)C=C1 | C10H11ClO2S
reactant | hydroxylamine | 0.225 mol | NO | H3NO
solvent | methanol | 50 ml | CO | CH4O
solvent | methanol | 150 ml | CO | CH4O
product | 2-(4-Chlorobenzylmercapto)-acetohydroxamic acid | ClC1=CC=C(CSCC(=O)NO)C=C1 | C9H10ClNO2S
